US07714168B2
To 50 ml of methanol were added 15.5 g of 2-propynyl 4-(2-propynyloxy)-3,5-dimethoxybenzoate and 40 ml of 15% aqueous sodium hydroxide solution and the mixture obtained was stirred at 50° C. for 4 hours. Then, the reaction mixture was added to hydrochloric acid for acidification. Crystals precipitated were collected by filtration and dried to obtain 13.0 g of 4-(2-propynyloxy)-3,5-dimethoxybenzoic acid represented by the formula:

reactant | 2-propynyl 4-(2-propynyloxy)-3,5-dimethoxybenzoate | 15.5 g | C(C#C)OC1=C(C=C(C(=O)OCC#C)C=C1OC)OC | C15H14O5
reactant | sodium hydroxide | 40 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 4-(2-propynyloxy)-3,5-dimethoxybenzoic acid | 13.0 g | C(C#C)OC1=C(C=C(C(=O)O)C=C1OC)OC | C12H12O5
